US07598419B2
(E,E)-2-(3,4-Dimethoxybenzylaminocarbonyl)-3-(3,4-dihydroxystyryl)acrylonitrile
To 3,4-dihydroxycinnamaldehyde (32 mg, 0.2 mmol) and N-(cyanoacetyl)3,4-dimethoxybenzylamide (47 mg, 0.2 mmol) in 8 mL of ethanol 40 μl of piperidine was added and the mixture was kept at room temperature for 1 h. 2N HCl and water were added and the precipitated solid was recrystallized from ethanol-water to give 52 mg (68%) of an orange solid. The product gave the following analytical data:

reactant | 3,4-dihydroxycinnamaldehyde | 0.2 mmol, 32 mg | OC=1C=C(C=CC=O)C=CC1O | C9H8O3
reactant | N-(cyanoacetyl)3,4-dimethoxybenzylamide | 0.2 mmol, 47 mg | C(#N)CC(=O)[N-]CC1=CC(=C(C=C1)OC)OC
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | (E,E)-2-(3,4-Dimethoxybenzylaminocarbonyl)-3-(3,4-dihydroxystyryl)acrylonitrile | 52 mg, 68% | COC=1C=C(CNC(=O)\C(\C#N)=C\C=C\C2=CC(=C(C=C2)O)O)C=CC1OC | C21H20N2O5
